US08314128B2
b. [1-(2-Hydroxy-ethyl)-cyclohexyl]-acetic acid benzyl ester
A solution of (1-benzyloxycarbonylmethyl-cyclohexyl)-acetic acid (3.0 g, 10 mmol) in tetrahydrofuran (20 mL) was cooled to 0° C. and 1 M borane-THF complex in tetrahydrofuran (21 mL, 20 mmol) was added dropwise over 5 min. The reaction mixture was allowed to warm to room temperature, stirred for 1 h at room temperature. and cooled to 0° C. Methanol was added slowly to quench the reaction. The reaction mixture was warmed to room temperature, stirred for 30 min, and concentrated to dryness to provide the title compound (2.2 g).

reactant | (1-benzyloxycarbonylmethyl-cyclohexyl)-acetic acid | 10 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)CC1(CCCCC1)CC(=O)O | C17H22O4
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mmol, 21 mL | O1CCCC1 | C4H8O
product | [1-(2-Hydroxy-ethyl)-cyclohexyl]-acetic acid benzyl ester | 2.2 g | C(C1=CC=CC=C1)OC(CC1(CCCCC1)CCO)=O | C17H24O3
